US04948420
Preparation of diethyl-2-[4'-(4"-cyano-phenoxy)-phenoxy]-malonate
A mixture of 30 g of 2-[4'-(4"-cyano-phenoxy)-phenoxy]-propionyl chloride and 30 ml of ether is added dropwise to a 35% etheral solution of magnesium diethyl malonate prepared from 17.6 g of diethyl malonate. The addition of the acid chloride having been completed the reaction mixture is heated to boiling for an hour and worked up as described in Example 1. Thus 30 g of the desired compound are obtained in the form of a viscous oil which solidifies on standing and melts at 42°-46° C. Yield 72%.

reactant | 2-[4'-(4"-cyano-phenoxy)-phenoxy]-propionyl chloride | 30 g | C(#N)C1=CC=C(OC2=CC=C(OC(C(=O)Cl)C)C=C2)C=C1 | C16H12ClNO3
reactant | magnesium diethyl malonate | C(CC(=O)OCC)(=O)OCC.[Mg]
reactant | diethyl malonate | 17.6 g | C(CC(=O)OCC)(=O)OCC | C7H12O4
solvent | ether | 30 ml | CCOCC | C4H10O
product | diethyl-2-[4'-(4"-cyano-phenoxy)-phenoxy]-malonate | 30 g, Yield 72% | C(C)OC(C(C(=O)OCC)OC1=CC=C(C=C1)OC1=CC=C(C=C1)C#N)=O | C20H19NO6
